US08648066B2
A solution of methyl 2-((dimethylamino)methyleneamino)-5,5-dimethylcyclohex-1-enecarboxylate (9.5 g, 40 mol) in 7.0M ammonia in methanol (35 mL) was stirred at 25° C. for 90 minutes then concentrated to an oil. The residue was purified by silica gel column chromatography (ethyl acetate/hexanes, 1:8) to give 6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4(3H)-one (6.41 g, 90% yield) as a white solid. 1H NMR (400 MHz, d6-DMSO): 7.96 (s, 1H), 2.52 (t, 2H), 2.14 (s, 2H), 1.48 (t, 2H), 0.93 (s, 6H); MS (EI) for C10H14N2O: 179 (MH+).

reactant | methyl 2-((dimethylamino)methyleneamino)-5,5-dimethylcyclohex-1-enecarboxylate | 40 mol, 9.5 g | CN(C)C=NC1=C(CC(CC1)(C)C)C(=O)OC | C13H22N2O2
solvent | ammonia | 7.0M | N | H3N
solvent | methanol | 35 mL | CO | CH4O
product | 6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4(3H)-one | 6.41 g, 90% yield | CC1(CC=2C(NC=NC2CC1)=O)C | C10H14N2O
